US07259183B2
5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide 134
140 mg (0.5 mmol) of (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amine, 97 mg (0.5 mmol) of 5-chloro-1H-indole-7-carboxylic acid and 115 mg (0.6 mmol) of EDC.HCl were stirred over night at rt in 10 ml DCM. The product was purified by column chromatography (20 silica gel; DCM) to yield 140 mg (64%) product as a colorless oil. MS (EI) 462.2 (27), 463.2 (14), 464.2 (12) (M)+.

reactant | (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amine | 0.5 mmol, 140 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC=C(C=C2)F)C=C1 | C19H24FN
reactant | 5-chloro-1H-indole-7-carboxylic acid | 0.5 mmol, 97 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | EDC.HCl | 0.6 mmol, 115 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 140 mg, 64% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC=C(C=C2)F)C=C1 | C28H28ClFN2O
